Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
intermittent slurred speech
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ year old male with history of anxiety and
depression as well syncopal episode 1.5 weeks ago with 
headstrike
and brief loss of consciousness who now presents with slurred
speech and gait instability. 

Per patient he was in his usual state of health up until 2
___ ago. He was in the bathroom in the morning around 11A 
and
the next thing he knew he fell and hit his head on the right and
had what he thinks was a brief loss of consciousness. He has 
some
amnesia for right before the event but thinks he may have stood
up quickly because the bottom cabinet doors were open (so he
thinks maybe he opened them and then stood up). He remembers
right as he had the head strike and then did lose consciousness
very briefly he thinks. He hit his head on a metal pipe and the
pipe broke. He denies preceding warning, clammy, dizziness,
changes in vision or any symptoms. He was not tired after the
episode and had no nausea or vomiting. He had no tongue lac or
urinary incontinence.

He stood up and felt slight off balance like a sensation of
movement. He went and sat down at the computer for about 30
minutes to and hours to rest. He was able to play on his 
computer
and read some articles without issue. He denied any headache or
neck pain or other neurologic symptoms. He was not tired after
the episode. The rest of his day progressed without issue
although he did feel dizzy when moving or walking at times.

___ and ___ were typical days for him. He 
worked
at home as he does often (does EMR for ___). He 
had
no issues with this, talked to people on the phone and handled
issues without a problem. He continued to feel off-balance and
dizzy when walking at times but not always.

He went to work ___ and around ___ his boss called 
him
in for a meeting. His boss asked if he had been drinking because
people noticed he was slurring his words and seemed to be losing
his balance when walking. ___ was a bit taken aback by the
question because he felt the balance issues but didn't think he
was slurring his speech. He was taken to occupational ___
where he had tox screens which were only positive for marijuana
(he has a medical marijuana card and did smoke time prior but 
not
the morning of). 

He was then taken to ___ where he had labs and a head CT
which was reportedly normal. He was sent home. He is on
administrative leave while they investigate. 

The next few days and weekend progressed without issue. His
fiancé says he seemed normal other than a few balance issues but
did not have slurred speech again. 

Then yesterday in the morning she noticed his speech seem
slurred. She asked him if something was wrong and he said he had
taken Ativan 0.5 mg due to anxiety from the stuff going on with
his job. He takes this very rarely if he has anxiety or flies.
She attributed the slurred speech to the Ativan and let the 
issue
go. Then today he saw his PCP who noted dysarthria and gait
issues and his PCP sent him in to the ED. 

___ reports that he has otherwise been feeling well. He denies
recent illness, fevers or infection. He still has no headache or
neck pain. He's had no double vision, change in vision, change 
in
speech or cognition, weakness, tingling or numbness. He is
stressed out because this has made him go on admin leave from
work right before he gets married (getting married in 30 days).
He does not drink in excess (may have a few beers no the
weekend), but otherwise doesn't. He smokes marijuana in the
evenings sometimes. He does no other drugs for fun. 

He has had a prior episode of fall and LOC ___ years ago where 
he
fell and busted through a door. He had no warning or preceding
symptoms prior to that episode and he just "shook it off". He 
has
had about ___ concussions in his teens and ___ from ___ and
various events where he did have loss of consciousness. He has
never had seizures, lost periods of time, tongue biting or
unexplained urinary incontinence. He has never had CNS infection
and was born full term. He has no family history of seizures.
There is no personal or family history of blood clots. He does
have ___ for the past year. One episode was particularly bad
a few months ago when he insisted he knew some strangers from
somewhere but later realized he didn't. He doesn't get odd
smells. He endorses a gastric rising sensation at times he
attributes to anxiety. 

ROS: positive as above, otherwise negative for weight loss, 
rash,
diarrhea, cough. He has occasional chest pressure when he has
anxiety. No urinary or bowel symptoms
 
Past Medical History:
anxiety 
depression
prior concussion
 
Social History:
___
Family History:
mother has afib, father is healthy; sister has fibromyalgia,
brother has possible heart valve issue
no history of strokes or seizures
 
Physical Exam:
ADMISSION:
96.8 °F (36 °C) Temporal Artery 58 17 112/69
General: Awake, cooperative 
HEENT: NC/AT, no scleral icterus noted 
Neck: Supple, no carotid bruits appreciated 
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, nl 
Abdomen: soft, NT/ND 
Extremities: No ___ edema
Skin: abrasion on knee

Neurologic:

-Mental Status: Alert, oriented to ___.. ___,
___.. no ___ or ___. Able to relate history
wekk. Can do MOYB. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects.  Able 
to
read without difficulty. Speech with dysarthric for lingual,
buccal and guttural sounds but able to understand.  Able to
follow both midline and appendicular commands. Pt was able to
register 3 objects and recall ___ at 5 minutes. Had difficulty
with cube and clock drawing. For cube only drew back half and 
for
clock put the numbers on the outside with odd spacing. Fluency 
11
words at 1 minute. There was no evidence of apraxia or neglect.

-Cranial Nerves:
 II, III, IV, VI:  Right 3->2, Left 4->3 (anisocoria seemed the
same in light and dark). EOMI without nystagmus.  
 V: Facial sensation intact to light touch.
 VII: Left NLFF with decreased activation, weaker eye closure on
the left, slight delayed blink on left
 VIII: Hearing intact to finger-rub bilaterally. Right beating
nystagmus on right gaze and left on left gaze.
 IX, X: Palate elevates symmetrically. Slight nasal quality to
voice which he says is not new.
 XI: Decreased elevation in shoulder shrug on left. 
 XII: Tongue protrudes in midline with full excursions; strong
tongue in cheek.

-Motor: Normal bulk, tone throughout. Slight left pronation and
drift.
   Delt Bic Tri WrE FFl FE IP Quad Ham TA Gastroc 
 L  5    ___   ___   5    4+  5     5     
 R  5    ___   ___   5    5  5     5   

-Sensory: No deficits to light touch, pinprick,  vibratory 
sense,
proprioception throughout. No extinction to DSS.

-DTRs:
   Bi Tri ___ Pat Ach
 L  2  2    2    2   1
 R  2  2    2    2   1
 Plantar response was flexor bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally. There is lean to left
when he sits on the bed with eyes closed.

-Gait: Wide based, narrow stride, deviates to left.

DISCHARGE:
General: Awake, cooperative 
HEENT: NC/AT, no scleral icterus noted 
Neck: Supple, no carotid bruits appreciated 
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, nl 
Abdomen: soft, NT/ND 
Extremities: No ___ edema
Skin: abrasion on knee

Neurologic:
-Mental Status: Alert, oriented, attends well to examiner. 
Language is fluent with intact comprehension. Normal prosody. 
There were
no paraphasic errors. Speech not dysarthric. Able to follow both
midline and appendicular commands. There was no evidence of
apraxia or neglect.

-Cranial Nerves:
 II, III, IV, VI: PERRL (4 -> 2 bilaterally & brisk). EOMI.  
 V: Facial sensation intact to light touch.
 VII: Mild left NLFF with decreased activation, weaker eye
closure on the left, slight delayed blink on left
 VIII: Hearing intact to conversation. Torsional right beating
nystagmus on right gaze and left on left gaze.
 IX, X: Palate elevates symmetrically. 
 XI: SCM/trap ___ bilaterally. 
 XII: Tongue protrudes in midline with full excursions; strong
tongue in cheek.

-Motor: Normal bulk, tone throughout. Slight left pronation and
drift.
   Delt Bic Tri WrE FFl FE IP Quad Ham  TA Gastroc 
 L  5    ___   ___   5    5   5    5     
 R  5    ___   ___   5    5   5    5   

-Sensory: No deficits to light touch throughout.

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally. Minimal sway on romberg.

-Gait: Normal, narrow based gait w/ narrow stride. Normal toe,
heel, and tandem gait.

 
Pertinent Results:
___ 11:30AM BLOOD WBC-5.5 RBC-4.09* Hgb-13.2* Hct-39.0* 
MCV-95 MCH-32.3* MCHC-33.8 RDW-12.3 RDWSD-42.8 Plt ___
___ 11:30AM BLOOD Neuts-53.8 ___ Monos-14.4* 
Eos-6.9 Baso-1.1* Im ___ AbsNeut-2.94 AbsLymp-1.28 
AbsMono-0.79 AbsEos-0.38 AbsBaso-0.06
___ 11:30AM BLOOD ___ PTT-36.9* ___
___ 11:30AM BLOOD Glucose-85 UreaN-13 Creat-0.9 Na-136 
K-4.1 Cl-97 HCO3-29 AnGap-10
___ 11:30AM BLOOD ALT-31 AST-27 AlkPhos-54 TotBili-0.8
___ 11:30AM BLOOD cTropnT-<0.01
___ 11:30AM BLOOD Albumin-4.7 Calcium-9.9 Phos-3.4 Mg-2.2 
Cholest-148
___ 05:50AM BLOOD VitB12-587
___ 01:37PM BLOOD %HbA1c-5.4 eAG-108
___ 11:30AM BLOOD Triglyc-131 HDL-49 CHOL/HD-3.0 LDLcalc-73
___ 11:30AM BLOOD TSH-2.1
___ 11:30AM BLOOD Lyme Ab-NEG
___ 11:30AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG

___ 05:40PM URINE Color-Straw Appear-Clear Sp ___
___ 05:40PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG
___ 05:40PM URINE bnzodzp-POS* barbitr-NEG opiates-POS* 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG

___ 5:40 pm URINE **FINAL REPORT ___
   URINE CULTURE (Final ___:    NO GROWTH.

___ CTA head/neck
IMPRESSION: 
1. Venous contrast poolinganddental amalgam streak 
artifactandpatient body
habitus limits study.  Additionally streak artifact limits 
evaluation of pons.
2. No acute intracranial abnormality, no definite evidence of 
acute
intracranial hemorrhage or acute large territorial infarct. 
Please note MRI of the brain is more sensitive for the detection 
of acute infarct.
3. Left vertebral artery origin not able to be visualized 
secondary to
artifact.
4. Otherwise, patent circle of ___ without definite evidence 
of
stenosis,occlusion,or aneurysm. Patent bilateral cervical 
carotid and vertebral arteries without definite evidence of 
stenosis, occlusion, or dissection.
5. Approximately 1.1 cm right level IIa enlarged lymph node with 
additional
scattered subcentimeter nonspecific lymph nodes as described.
6. Paranasal sinus disease , as described.

___ CXR
IMPRESSION: 
No acute cardiopulmonary abnormality.

___ MRI head w/ & w/o contrast
IMPRESSION: 
1. There is no evidence of acute intracranial process or 
hemorrhage.
2. Slightly prominent sulci towards the convexity, this finding 
is
nonspecific, however suggest mild cortical volume loss, please 
correlate.
3. No diffusion abnormalities or abnormal enhancement after 
contrast
administration.

___ TTE
IMPRESSION: No structural cardiac source of embolism (e.g.patent 
foramen ovale/atrial septal defect, intracardiac thrombus, or 
vegetation) seen. No evidence for right-to-left intracardiac 
shunt at rest or with maneuvers. Mild symmetric left ventricular 
hypertrophy with normal cavity size, and regional/global 
biventricular systolic function. No valvular pathology or 
pathologic flow identified.Normal estimated pulmonary artery 
systolic pressure.
 
Brief Hospital Course:
This is a ___ year old male with history of anxiety and 
depression as well syncopal episode 1.5 weeks ago with 
headstrike and brief loss of consciousness who now presents with 
slurred speech and gait instability. 

History notable for no neck pain or headache. He had dysarthria 
reportedly about one week ago that resolved per his fiancé and 
then yesterday had recurrence of dysarthria. He has had 
intermittent gait instability. Initial exam was notable for some 
disorientation, impaired recall, and some difficulty w/ 
visuospatial tasks but intact attention. Subtle lower motor 
neuron left facial weakness was noted, as well as direction 
changing nystagmus. Urine was positive for opiates and 
benzodiazepines; patient endorsed benzodiazepine use but not 
opiates. However, he did use a vape pen with unclear substances 
inside; we discussed that he should not use this vape pen 
anymore as it may have contained substances he was unaware of. 
Symptoms were much improved day after admission. CTA head/neck 
w/o significant atheromatous disease or LVO. MRI head w/ & w/o 
contrast only notable for diffuse mild cortical volume loss, c/w 
significant substance use. Patient was monitored in the hospital 
overnight, and by morning patient was much improved. At time of 
discharge, patient continued to have subtle lower motor neuron 
CN VII on the left, as well as overshoot with mirror testing, 
fine postural tremor, and several beats of end gaze nystagmus 
bilaterally.
Patient later reported significant EtOH use history that has 
recently increased w/ possibly other substances used. He noted 
correlation of substance use w/ symptoms and endorsed plan to 
address substance use w/ psychiatrist next wk as well as discuss 
w/ family (reports was unaware). Requested discharge to home. 
___ evaluation w/ no needs. 

We discussed at length with patient that he needs to discontinue 
all alcohol use. He has considered quitting alcohol use in the 
past, and is interested in doing so. We discussed with him going 
to Alcoholics Anonymous, as well as sharing this information 
with his family for more social support. 

We considered alternative diagnoses such as meningitis, 
encephalitis but clinical picture was not consistent with this. 
Discussed LP with patient but given history of alcohol use and 
rapid improvement and patient preference decided against this. 
There were no signs of alcohol withdrawal while inpatient.

#Substance-induced cerebellar ataxia & dysarthria
#EtOH use disorder
- Encourage seeking help for substance use disorder and agreed 
w/ importance of close psychiatry otpt f/u; he has a follow up 
appointment this upcoming ___ 
- Start thiamine and B12 supplementation as some of the exam 
findings on exam (nystagmus and slight ataxia) could be improved 
secondary to alcohol use 

#Anxiety/depression
- continue Wellbutrin and citalopram for now, though 
continuation of Wellbutrin should be discussed with psychiatry 
given history of heavy alcohol use
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. BuPROPion XL (Once Daily) 150 mg PO DAILY 
2. Citalopram 40 mg PO DAILY 
3. LORazepam 0.5 mg PO DAILY:PRN anxiety 

 
Discharge Medications:
1.  Cyanocobalamin 250 mcg PO DAILY 
RX *cyanocobalamin (vitamin B-12) [Vitamin B-12] 250 mcg 1 
tablet(s) by mouth once daily Disp #*30 Tablet Refills:*5 
2.  Thiamine 100 mg PO DAILY 
RX *thiamine HCl (vitamin B1) 100 mg 1 tablet(s) by mouth once 
daily Disp #*30 Tablet Refills:*5 
3.  BuPROPion XL (Once Daily) 150 mg PO DAILY  
4.  Citalopram 40 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
substance-induced cerebellar ataxia
substance use disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted with slurred speech and gait imbalance, which 
was initially concerning for a possible stroke, seizure, or 
infection. Your symptoms improved soon after admission and the 
imaging of your brain only demonstrated atrophy greater than 
expected for your age, which could be due substance use. As your 
symptoms have improved and your reported substance use history 
correlates with your symptoms, you were discharged to home with 
close psychiatry follow-up. You were found to have no acute 
needs by physical and occupational therapy. 

If you develop any dizziness, weakness, seizures, shakiness, 
numbness, vision loss, or any new or worsening symptoms, we 
encourage you to seek medical attention. 

Thank you for allowing us to participate in your care. 

Sincerely, 
Your ___ Neurology team 
 
Followup Instructions:
___